US06140494
N-(3-Bromopropyl)triethylammonium bromide
1,3-Dibromopropane (20.0 g, 100 mmol) and triethylamine (5.06 g, 50 mmol) were mixed in dry toluene (50 ml). This solution was heated at 100° C. under nitrogen atmosphere for 4 h, during which time a thick white solid precipitated. The mixture was then cooled and the solid collected by filtration, washed with toluene and ether and dried under vacuum at 50° C. to give the titled compound 5.0 g (36%).

reactant | 1,3-Dibromopropane | 100 mmol, 20.0 g | BrCCCBr | C3H6Br2
reactant | triethylamine | 50 mmol, 5.06 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3-Bromopropyl)triethylammonium bromide | 5.0 g, 36% | [Br-].BrCCC[N+](CC)(CC)CC | InChI=1S/C9H21BrN.BrH/c1-4-11(5-2,6-3)9-7-8-10;/h4-9H2,1-3H3;1H/q+1;/p-1
